US04090025
Racemic 1-(2-methoxyethyl)-3-acetyl-4-phenyl-2-imidazolidone
Approximately 3.9 g. of 1-(2-methoxyethyl)-3-acetyl-4-phenyl-4-imidazolin-2-one and 400 mg. of 10% palladium on carbon in 30 ml. of ethanol is hydrogenated in the Parr Shaker apparatus at 30 psig of hydrogen. After one hour the catalyst is filtered and washed with 50 ml. of ethanol. The combined filtrate is concentrated to yield the title compounds as a colorless oil.

reactant | 1-(2-methoxyethyl)-3-acetyl-4-phenyl-4-imidazolin-2-one | COCCN1C(N(C(=C1)C1=CC=CC=C1)C(C)=O)=O | C14H16N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Racemic 1-(2-methoxyethyl)-3-acetyl-4-phenyl-2-imidazolidone | COCCN1C(N(C(C1)C1=CC=CC=C1)C(C)=O)=O | C14H18N2O3
